US07888352B2
2-Chloro-7-methyl-4-morpholinothieno-[3,2-d]pyrimidine-6-carbaldehyde was dissolved in 20 mL toluene and 20 mL THF followed by the addition of 15 mL 40% methylamine in H2O and the reaction was stirred for 24 hours. The reaction mixture was concentrated in vacuo and the residue dissolved in 30 mL MeOH and 30 mL THF followed by the addition of NaBH4. The reaction was stirred at room temp for at least 24 hours and product formation was confirmed by LCMS. The solvents were removed in vacuo and the crude product purified by flash chromatography to give 2.53 g of (2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-methylmethanamine. (70% yield) MS (Q1) 314 (M)+

reactant | 2-Chloro-7-methyl-4-morpholinothieno-[3,2-d]pyrimidine-6-carbaldehyde | ClC=1N=C(C2=C(N1)C(=C(S2)C=O)C)N2CCOCC2 | C12H12ClN3O2S
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methylamine | 15 mL | CN | CH5N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | O | H2O
product | (2-chloro-7-methyl-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-methylmethanamine | 2.53 g, 70% yield | ClC=1N=C(C2=C(N1)C(=C(S2)CNC)C)N2CCOCC2 | C13H17ClN4OS
